US05069819
Preparation of 3-(n-dodecylthio)-2-methyl-propanoic acid, methyl ester
Into the same type equipment used in Example 1 202 grams of 98% 1-dodecanthiol was added to 1.0 grams of KOH and 112 grams methylmethacrylate with stirring over a 10 minute period. The reaction mixture went from 70° C. to 98° C. The reaction mixture was stirred an extra hour at 98° C. to 93° C. and slowly heated up to 122° C. over a 5 hour period. The reaction mixture was stripped at 125° C. and 20 mm pressure. GC analysis indicated a purity of 93.2% product. 300 grams filtered product was obtained.

reactant | 1-dodecanthiol | C(CCCCCCCCCCC)S | C12H26S
reactant | KOH | 1.0 grams | [OH-].[K+]
reactant | methylmethacrylate | 112 grams | COC(C(=C)C)=O | C5H8O2
product | 3-(n-dodecylthio)-2-methyl-propanoic acid, methyl ester | C(CCCCCCCCCCC)SCC(C(=O)OC)C | C17H34O2S
